Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
SOB
 
Major Surgical or Invasive Procedure:
 none
 
History of Present Illness:
___ y/o woman with a history of insulin dependent diabetes, end 
stage renal disease on hemodialysis, and chronic diastolic 
congestive heart failure with frequent exacerbations resulting 
in admissions who is presenting to the ___ ICU in respiratory 
distress.
.
She was in fact recently admitted and discahrged on ___ 
for chest pain and hypotension while at dialysis on ___. 
Her chest pain at the time was per report in the setting of 
hypotension and lasted several hours. It resolved with 
administration of fluids at dialyisis. Her EKG did have 2mm 
up-sloping ST elevations in V2-V3, but in the absence of current 
chest pain and in comparison to previous examinations, it was 
felt not clinically significant.  Her cardiac biomarkers were at 
baseline, with a CK 38 and troponin 0.18. She was subsequently 
discharged on the same day of admission.
.
She went home, but had an increase in her shortness of breath. 
She reports that she in fact felt her heart racing at 
approximetly 10pm. She denies chest pain. She subsequently 
developed shortness of breath an hour or so later and 
re-presented to the emergecy department. 
.
In the ED she was found to be hypertensive 213/96 and arrived on 
BiPap from EMS sating 100%. She was placed on nitro gtt and 
given enalaprilat 0.625mg IV x 1. She was weaned from nitro gtt 
and placeds on a non-rebreatger. No further BP medications were 
administered. She developed hypertension again to the 180s 
systolic and was re-placed on Bi-Pap and nitrogtt. She arrived 
to the FICU sating 100% on 0.5mcg/kg/min nitroglycerine and 
BIpap 12 PS with 4PEEP. A blood gas was attempted, but was not 
succesfull. She had her BiPap removed and was doing well, sating 
100% on a facemask, but requested that she have her mask put 
back on as she felt she was not getting enough air with her 
breaths. This subjective feeling was not corroborated with 
objective data at the time, and her mask was replaced. 
.

 
Past Medical History:
# CKD V on hemodialysis; qMWF schedule at ___  
# DM2 on insulin  
# HTN  
# Chronic diastolic CHF (LVEF >75%) with a history of 
tachycardia-induced acute LVOT obstruction  
# Hyperlipidemia  
# PVD s/p bilateral BKAs (left in ___ right in ___  
# Paroxysmal a-flutter s/p failed ablation with subsequent 
atrial fibrillation; on warfarin  
# Chronic nighttime hypoxemia on 3 L/min nc  
# Secondary hyperparathyroidism  
# No occlusive coronary disease on cardiac cath ___  
# Left eye blindness  
# Mild functional mitral stenosis  
# GERD  
# Tobacco abuse-- still smokes ___ PPD as of ___  
# h/o VRE UTI's  
# H/o Tibial fracture

 
Social History:
___
Family History:
Has a history of longevity with her father dying in his ___ and 
mother at age ___. 
 
Physical Exam:
97.3  86  163/72  100% on BiPap ___
HEENT: JVP difficult to asses while on Bipap
CV: irregular, s1,s2 soft systolic murmur appreciated
RESP: bialteral crackles 
ABD: soft, NT/ND
EXT: bilateral BKA, no edema in thighs. 

 
Pertinent Results:
Admission labs:
___ 02:35AM BLOOD WBC-7.9 RBC-3.78* Hgb-11.0* Hct-36.6 
MCV-97 MCH-29.1 MCHC-30.0* RDW-20.3* Plt ___
___ 02:35AM BLOOD Neuts-73.5* ___ Monos-3.8 Eos-3.3 
Baso-0.4
___ 02:35AM BLOOD ___ PTT-24.5 ___
___ 02:35AM BLOOD Glucose-259* UreaN-39* Na-140 K-4.3 Cl-98 
HCO3-25 AnGap-21*
___ 12:38PM BLOOD CK(CPK)-36
___ 02:35AM BLOOD cTropnT-0.11*
 
Brief Hospital Course:
___ y/o woman with insulin dependent diabetes, end stage renal 
disease on hemodialysis, chornic diastolic heart failure who is 
admitted to the ___ ICU with respiratory distress.
.
ICU course:
Respiratory distress was thought to be ___ pulmonary edema due 
to diastolic CHF. Given h/o palpitations, CHF exacerbation could 
have been caused by a burst of a fib. She was transferred to the 
ICU on a nitroglycerine gtt which was quickly titrated. She was 
given HD with 3.5L of fluid taken off. Of note, per renal team, 
her dry weight is thought to be 46kg. By 2pm on the day of 
admission to the ICU, bipap was taken off (previously, pt had 
been reluctant to remove bipap) and she had O2 sat 100% on 4L NC 
at time of transfer to floor. Rate controlling medications 
including toprol, amiodarone and verapamil were ordered. 
However, verapamil was held on evening of floor transfer ___ 
SBPs 110s-120s after HD.  

Course on medical floor:
Patient remained stable satting 100% on RA with no further 
episodes of SOB. She received ultrafiltration on ___ as 
scheduled. She was discharged satting 100% on RA. She will 
continue to get HD ___ and UF on ___.

Her INR was low on admission. She was given 2mg coumadin daily 
(instead of alternating 1mg with 2mg). She was discharged on 2mg 
daily and will have her INR drawn at HD on ___ (tomorroW) and 
results faxed to ___ clinic for coumadin dosing 
as she normally does. At that point she may no longer require 
the double dose of coumadin and may be able to go back to her 
home dose.
 
Medications on Admission:
Toprol Xl 100mg po Qday
Verapamil 80mg po Q8hours
Valsartan 160mg po QHS
Simvastatin 40mg po Qhs
Amiodarone 200mg po Qday
Aspirin 81mg po Qday
Warfarin 2mg po 3x/week, 1mg 4x/week
Isosorbide mononitrate 30mg po Qday
Lisinorpil 10mg po Qday
Albuterol 90mcg IH prn
Tiotropium 18mcg Ih qday
folic acid 1mg po Qday
Sevelamer 800mg po TId w/meals
Calcium acetate 667mg po TID w/meals
NPH Insulin 4units SQ BID
pantoprazole 40mg po Qday
Brimonidine 0.15% 1 drop BID
Dorzolamide-Timolol ___ 1 drop BID
Latanoprost 0.005% QH
Docusate 100mg po BID
Acetaminophen prn
.

 
Discharge Medications:
1. Metoprolol Succinate 100 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
2. Verapamil 80 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours).  
3. Valsartan 160 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
5. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
7. Warfarin 1 mg Tablet Sig: ___ Tablets PO once a day: Take 1 
tablet every other day and take 2 tablets on the other days.  
8. Isosorbide Mononitrate 30 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
9. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

10. Tiotropium Bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).  
11. Amiodarone 200 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
12. Sevelamer HCl 400 mg Tablet Sig: Two (2) Tablet PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  
13. B Complex-Vitamin C-Folic Acid 1 mg Capsule Sig: One (1) Cap 
PO DAILY (Daily).  
14. Calcium Acetate 667 mg Capsule Sig: One (1) Capsule PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  
15. Dorzolamide-Timolol ___ % Drops Sig: One (1) Drop 
Ophthalmic BID (2 times a day).  
16. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS 
(at bedtime).  
17. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
18. Brimonidine 0.15 % Drops Sig: One (1) Drop Ophthalmic BID (2 
times a day).  
19. Albuterol 90 mcg/Actuation Aerosol Sig: ___ Puffs Inhalation 
Q4H (every 4 hours) as needed.  
20. Insulin NPH Human Recomb 100 unit/mL Suspension Sig: Four 
(4) units Subcutaneous twice a day.  
21. Insulin Lispro 100 unit/mL Solution Sig: As DIR  
Subcutaneous QACHS: Per sliding scale.  
22. Outpatient Lab Work
Please have INR drawn at dialysis ___. Fax result to ___ 
___ clinic.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Diastolic acute heart failure
ESRD 

 
Discharge Condition:
the patient was afebrile and hemodynamically stable satting 100% 
on RA prior to discharge.

 
Discharge Instructions:
Weigh yourself every morning, call MD if weight > 3 lbs.
Adhere to 2 gm sodium diet
Fluid Restriction: 2L

You were admitted to the hospital with fluid in your lungs. This 

was probably caused by a fast heart rate. We have given you 
hemodialysis to take the fluid out of your lungs. You should 
continue taking all of your medications as prescribed. You 
should continue getting dialysis 4 times per week - mon, wed, 
fri, and sat. 

Your coumadin level was a little low. You should take an extra 
1mg of coumadin (so 2mg daily) until you have your INR checked 
at dialysis on ___. After that they will tell you how much 
coumadin to take.

Please come back to the emergency room or call your primary care 
doctor if you have confusion, fevers, shortness of breath, chest 
pain, weight gain of more than 3 pounds in one day, leg 
swelling, pain with urination.
 
Followup Instructions:
___